US09193707B2
4. Synthesis of ethyl 2-(2-bromophenyl)-2-oxoacetate
Into a 250-mL 3-necked round-bottom flask, was placed a solution of 2-(2-bromophenyl)-2-oxoacetic acid (10 g, 43.66 mmol, 1.00 equiv) in ethanol (80 mL). This was followed by the addition of thionyl chloride (20 mL) dropwise with stirring. The resulting solution was stirred for 12 h at 80° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was dissolved in 100 mL of ethyl acetate. The resulting mixture was washed with 2×50 mL of water. The mixture was dried over anhydrous sodium sulfate. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5). This resulted in 9 g (80%) of ethyl 2-(2-bromophenyl)-2-oxoacetate as yellow oil. MS (ESI) m/z 258 ([M+H]+).

reactant | 2-(2-bromophenyl)-2-oxoacetic acid | 43.66 mmol, 10 g, 1.00 equiv | BrC1=C(C=CC=C1)C(C(=O)O)=O | C8H5BrO3
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 80 mL | C(C)O | C2H6O
product | ethyl 2-(2-bromophenyl)-2-oxoacetate | BrC1=C(C=CC=C1)C(C(=O)OCC)=O | C10H9BrO3
